US08871802B2
Preparation of 2-(1-hydroxyl-2-methylsulfonyl-ethenyl)-naphtho[2,3-b]furan-4,9-dione (Compound XX)
To a solution of crude 2-(1-hydroxyl-2-methylsulfonylethyl)-4,9-dimethoxy-naphtho[2,3-b]furan from previous step in 40 mL of acetonitrile/water (4:1) in an ice bath, a solution of 4.4 grams (8 mmoles) of cerium ammonium nitrate and 1.34 gram (8 mmoles) of potassium bromated in 40 mL of acetonitrile/water (1:4) was added dropwise over 20 minutes. The resulting mixture was further stirred for 120 minutes in an ice bath, and then was evaporated to remove acetonitrile. The remaining aqueous solution was extracted with dichloromethane twice. The combined organic phase was washed with water, dried with anhydrous sodium sulfate, and evaporated to dryness. The residue was subjected to silica gel chromatograph purification using dichloromethane/ethyl acetate (4:1) as elution solvent. 0.64 gram (2 mmoles) of product was obtained with overall yield of 51% and characterized by 1H NMR and mass spectrum. 1H NMR (in CDCl3) δ 3.20 (s, 3H), 4.68 (s, 2H), 7.84-7.87 (m, 3H), 8.23-8.33 (m, 2H). Mass (M+H) is 319.

reactant | 2-(1-hydroxyl-2-methylsulfonylethyl)-4,9-dimethoxy-naphtho[2,3-b]furan | OC(CS(=O)(=O)C)C1=CC2=C(O1)C(=C1C=CC=CC1=C2OC)OC | C17H18O6S
reactant | cerium ammonium nitrate | 8 mmoles, 4.4 grams | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | potassium | 8 mmoles, 1.34 gram | [K] | K
solvent | acetonitrile water | 40 mL | C(C)#N.O
solvent | acetonitrile water | 40 mL | C(C)#N.O
product | 2-(1-hydroxyl-2-methylsulfonyl-ethenyl)-naphtho[2,3-b]furan-4,9-dione | 2 mmoles, 0.64 gram, yield of 51% | OC(=CS(=O)(=O)C)C1=CC2=C(O1)C(C1=CC=CC=C1C2=O)=O | C15H10O6S
